US04327089
(A) Preparation of N-Ethoxy-pyridine-2-carboximidic Acid
7 g (0.05 mol) of pyridine-2-hydroxamic acid and 1.4 g (0.05 mol) of sodium hydride were dissolved in 100 ml of ethanol, and 8 g (0.05 mol) of ethyl iodide was gradually dropwise added thereto with stirring. After the dropwise addition, the reaction solution was stirred for 2 hours under reflux condition. After completion of the reaction, the ethanol was distilled off under reduced pressure. To the residue were added suitable amounts of methylene chloride and water, whereby the desired product was extracted with the methylene chloride. The extract was washed with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. After the drying, the solvent was distilled off under reduced pressure to obtain 8.2 g of the desired product.

reactant | pyridine-2-hydroxamic acid | 0.05 mol, 7 g | N1=C(C=CC=C1)C(=O)NO | C6H6N2O2
reactant | sodium hydride | 0.05 mol, 1.4 g | [H-].[Na+]
reactant | ethyl iodide | 0.05 mol, 8 g | C(C)I | C2H5I
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-Ethoxy-pyridine-2-carboximidic Acid | 8.2 g | C(C)ON=C(O)C1=NC=CC=C1 | C8H10N2O2
